US04108894
A slurry of sodium hydride (50% in oil, 1.76 g), m-aminobenzotrifluoride (5.91 g) and 6,6'-dipentyloxy[1,1'-biphenyl]-3,3'-dicarbonitrile (6.9 g; additional material is added to the batch of part A) in 50 ml of anhydrous dimethylsulfoxide is stirred at room temperature for 3 days. The reaction mixture is poured into water and the resultant precipitate collected by filtration. The dried material is chromatographed on 1 liter of silica gel eluting with (1) dichloromethane and (2) 1% methanol/dichloromethane to yield 5'-cyano-2',6-bis(pentyloxy)-N-[3-(trifluoromethyl)-phenyl][1,1'-biphenyl]-3-carboximidamide (melting point 74°-75° C after two recrystallizations from cyclohexane). The column is next eluted with 2% methanol/dichloromethane to yield 1.3 g of the desired product. Two recrystallizations of this material from 1% hydrochloric acid/methanol yields 900 mg of the title compound, melting point 207°-2l0° C.

reactant | sodium hydride | 1.76 g | [H-].[Na+]
reactant | m-aminobenzotrifluoride | 5.91 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | 6,6'-dipentyloxy[1,1'-biphenyl]-3,3'-dicarbonitrile | C(CCCC)OC1=CC=C(C=C1C1=CC(=CC=C1OCCCCC)C#N)C#N | C24H28N2O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 5'-cyano-2',6-bis(pentyloxy)-N-[3-(trifluoromethyl)-phenyl][1,1'-biphenyl]-3-carboximidamide | C(#N)C=1C=CC(=C(C1)C1=CC(=CC=C1OCCCCC)C(NC1=CC(=CC=C1)C(F)(F)F)=N)OCCCCC | C31H34F3N3O2
